US05155113
Preparation of 2,4-di(3-chlorobenzoyloxy)pyridine
A 1.00 g quantity of 4-hydroxy-2-pyridone was suspended in 30 ml of pyridine and 3.46 g of 3-chlorobenzoyl chloride was added to the suspension. The mixture was stirred at room temperature for 2 days. The reaction mixture was filtered and the filtrate was concentrated and the concentrate was extracted with ethyl acetate. The extract was concentrated and the concentrate was washed with water and with methanol, giving 1.74 g of the title compound in a yield of 50%.

reactant | 4-hydroxy-2-pyridone | OC1=CC(NC=C1)=O | C5H5NO2
reactant | 3-chlorobenzoyl chloride | 3.46 g | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 2,4-di(3-chlorobenzoyloxy)pyridine | 1.74 g, yield of 50% | ClC=1C=C(C(=O)OC2=NC=CC(=C2)OC(C2=CC(=CC=C2)Cl)=O)C=CC1 | C19H11Cl2NO4
